US08686024B2
Synthesis of 1-benzylindolin-5-yl 4-tert-butylphenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (50.0 mg, 0.222 mmol) using the same procedure employed for Example 2 (2), but with 4-tert-butylphenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (34.1 mg, 38%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.222 mmol, 50.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 4-tert-butylphenylisocyanate | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
product | 1-benzylindolin-5-yl 4-tert-butylphenylcarbamate | C(C)(C)(C)C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C26H28N2O2
